US04033935
About one mol of gelatinous orthosilicic acid, one mol of urea and about 0.2 mol of sodium carbonate are mixed, heated to 95° to 150° C. for 20 to 60 minutes, thereby producing white granules of urea silicate.

reactant | orthosilicic acid | one mol | [Si](O)(O)(O)O | H4O4Si
reactant | urea | one mol | NC(=O)N | CH4N2O
reactant | sodium carbonate | about 0.2 mol | C([O-])([O-])=O.[Na+].[Na+]
product | urea silicate | [Si](O)(O)(O)O.NC(=O)N | InChI=1S/CH4N2O.H4O4Si/c2-1(3)4;1-5(2,3)4/h(H4,2,3,4);1-4H
